US20010047099A1
To a solution of 2-ethylhexanol (10 mL) and sulfuric acid (1 mL) was added 4-amino-3,6-dichloropyridine-2-carboxylic acid (0.0097 mol, 2.0 g). After heating the reaction to reflux overnight, the reaction mixture was cooled, poured into water (75 mL), and extracted with ethyl acetate (75 mL). The organic phase was washed with sodium bicarbonate (75 mL), dried (Na2SO4), and concentrated. The resulting solid was recrystallized out of dichloromethane and hexane and filtered to give 2-ethylhexyl 4-amino-3,6-dichloropyridine-2-carboxylate (0.0074 mol, 2.36 g) as a crystalline solid (mp 55° C.). 1H NMR (CDCl3): δ 0.9 (7H, m), 1.3 (7H, m), 1.7 (1H, m), 4.3 (2H, d), 5.1 (2H, bs), 6.7 (1H, s).

reactant | 2-ethylhexanol | 10 mL | C(C)C(CO)CCCC | C8H18O
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-amino-3,6-dichloropyridine-2-carboxylic acid | 0.0097 mol, 2.0 g | NC1=C(C(=NC(=C1)Cl)C(=O)O)Cl | C6H4Cl2N2O2
solvent | water | 75 mL | O | H2O
product | 2-ethylhexyl 4-amino-3,6-dichloropyridine-2-carboxylate | 0.0074 mol, 2.36 g | NC1=C(C(=NC(=C1)Cl)C(=O)OCC(CCCC)CC)Cl | C14H20Cl2N2O2
